US07939644B2
1.64 g (10.66 mmol) of potassium tetracyanoborate, K[B(CN)4], in 5 ml of water are added dropwise with stirring to a solution of 2.76 g (10.69 mmol) of 3-ethyl-2-methylbenzothiazolium bromide in 50 ml of water. The lower liquid phase is extracted a number of times with 50 ml of dichloromethane, and the combined organic phases are dried using Mg2SO4. The solvent is subsequently removed by distillation, and the residue is dried under a reduced pressure of 1.3 Pa and at 60° C., giving 2.78 g of 3-ethyl-2-methylbenzothiazolium tetracyanoborate, corresponding to a yield of 89.1%.

reactant | potassium tetracyanoborate | 10.66 mmol, 1.64 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 3-ethyl-2-methylbenzothiazolium bromide | 10.69 mmol, 2.76 g | [Br-].C(C)[N+]1=C(SC2=C1C=CC=C2)C
solvent | water | 5 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-ethyl-2-methylbenzothiazolium tetracyanoborate | 2.78 g, yield of 89.1% | C(#N)[B-](C#N)(C#N)C#N.C(C)[N+]1=C(SC2=C1C=CC=C2)C | InChI=1S/C10H12NS.C4BN4/c1-3-11-8(2)12-10-7-5-4-6-9(10)11;6-1-5(2-7,3-8)4-9/h4-7H,3H2,1-2H3;/q+1;-1
